US05418239
2-Chlorobenzoyl chloride (11.8 g) was added dropwise to a stirred mixture of 5-aminoindan (9.0 g), potassium carbonate (9.3 g), ethyl acetate (90 ml) and water (90 ml) under ice-cooling. The mixture was further stirred under ice-cooling for one hour, at the end of which time the organic layer was separated, washed with water, dried (MgSO4) and distilled to remove the solvent. The procedure gave crystals of 5-2-chlorobenzoylamino)indan. The crystals were collected by filtration and recrystallized from isopropyl ether to give colorless needles, m.p. 144°-145° C.

reactant | 2-Chlorobenzoyl chloride | 11.8 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 5-aminoindan | 9.0 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | potassium carbonate | 9.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 90 ml | O | H2O
product | indan | C1CCC2=CC=CC=C12 | C9H10
